US06818652B2
A solution of 7-(3,3-dibromo-1-pentyl-allyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (0.08 g, 0.15 mmole) in 2 mL of THF at −78° C. was treated with 0.13 mL of 2.5M butyllithium. The reaction mixture was stirred at −78° C. for 1 hour, then at room temperature for 2 hours, quenched by the successive addition of 5 mL water and 5 mL of saturated aqueous ammonium chloride solution and extracted with three 25 mL portions of ether. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The product was purified by flash chromatography (SiO2, 5% ethyl acetate in hexanes) to yield 0.049 g of 4,4-dimethyl-7-(1-pentyl-prop-2-ynyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as a colourless oil.

reactant | 7-(3,3-dibromo-1-pentyl-allyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.15 mmole, 0.08 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)C(C=C(Br)Br)CCCCC)(C)C | C24H35Br2NO2
reactant | butyllithium | 2.5M, 0.13 mL | C(CCC)[Li]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4,4-dimethyl-7-(1-pentyl-prop-2-ynyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.049 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)C(C#C)CCCCC)(C)C | C24H35NO2
